US09233956B2
Step A: 1,1-Dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate
Following a procedure analogous to Intermediate 6 using N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide (4.80 g, 10.86 mmol) and 1,1-dimethylethyl 4-(aminocarbonothioyl)-1-piperidinecarboxylate (3.19 g, 13.04 mmol) the title compound of Step A was obtained (4.31 g, 60% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.78 (s, 1H), 8.57 (d, J=5.3 Hz, 1H), 7.36-7.68 (m, 5H), 7.32 (t, J=7.8 Hz, 1H), 6.90 (d, J=5.3 Hz, 1H), 4.01 (d, J=11.4 Hz, 2H), 3.20-3.34 (m, 1H), 2.92 (d, J=12.6 Hz, 2H), 2.07 (d, J=11.3 Hz, 2H), 1.52-1.70 (m, 2H), 1.40 (s, 9H). m/z (ES+): 667 [M+H]+.

reactant | N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 10.86 mmol, 4.80 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C18H11ClF3N3O3S
reactant | 1,1-dimethylethyl 4-(aminocarbonothioyl)-1-piperidinecarboxylate | 13.04 mmol, 3.19 g | NC(=S)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O2S
product | 1,1-Dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate | 60% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C29H27ClF3N5O4S2
